US05593989
Step A: 7,8-dihydro-4-hydroxyiminofuro[2,3-g]benzopyran
27.4 g of 2,3,7,8-tetrahydro-4-oxofuro[2,3-g]benzopyran (see Preparation 1), 42 g of hydroxylamine hydrochloride and 41.9 g of sodium acetate in 288 ml of ethanol are heated at reflux for 1 hour. The solvent is evaporated off and the residue is taken up in dichloromethane and washed with water. After drying over magnesium sulphate, evaporation and then recrystallisation from ethanol, 21.85 g of the desired compound are obtained.

reactant | 2,3,7,8-tetrahydro-4-oxofuro[2,3-g]benzopyran | 27.4 g | O=C1C2C(=CC=3CCCOC31)OCC2 | C11H12O3
reactant | hydroxylamine hydrochloride | 42 g | Cl.NO
reactant | sodium acetate | 41.9 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 288 ml | C(C)O | C2H6O
product | 7,8-dihydro-4-hydroxyiminofuro[2,3-g]benzopyran | ON=C1C=2C(=CC=3CCCOC31)OCC2 | C11H11NO3
